US09193693B2
Step 1. (R)-methyl 3-(sec-butylamino)-2-phenylquinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.439 mmol, 1.00 equiv), (S)-butan-2-amine (2 mL), DMSO (1 mL). The resulting solution was stirred overnight at 60° C. in an oil bath. The resulting mixture was concentrated under vacuum and diluted with H2O. The resulting solids were collected by filtration. The residue was applied onto a silica gel column with PE/EA (50:1). This resulted in 114 mg of (R)-methyl 3-(sec-butylamino)-2-phenylquinoxaline-6-carboxylate as yellow oil.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.439 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | (S)-butan-2-amine | 2 mL | C[C@@H](CC)N | C4H11N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-methyl 3-(sec-butylamino)-2-phenylquinoxaline-6-carboxylate | [C@@H](C)(CC)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C20H21N3O2
